US05221665
N-CBZ-L-Valyl-N-(benzyl)glycine
N-CBZ-L-Valyl-N-(benzyl)glycine ethyl ester (17.3 g, 0.0406mol) was dissolved in ethanol (200 mL) and treated with 1N KOH (45 mL) in portions of 8.0 mL at 0-5C. The mixture was allowed to stir at room temperature over night. The ethanol was removed under reduced pressure, and the residue was treated with water. Extracted three times with ethyl acetate and afterwards the aqueous layer was acidified with 2N HCl. The product was extracted into ethyl acetate and washed with saturated aqueous sodium chloride. After drying over MgSO4, filtration and evaporation under reduced pressure afforded the product as a white semisolid (14.1 g) melting at 41°-45° C.

reactant | N-CBZ-L-Valyl-N-(benzyl)glycine ethyl ester | 0.0406mol, 17.3 g | C(C)OC(CN(CC1=CC=CC=C1)C([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)=O | C24H30N2O5
reactant | KOH | 1N, 45 mL | [OH-].[K+]
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | N-CBZ-L-Valyl-N-(benzyl)glycine | 14.1 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)N(CC(=O)O)CC1=CC=CC=C1 | C22H26N2O5
